US04162246
2,2-Bis{4-[2-hydroxy-3-(7,7,9,9-tetramethyl-2,4-dioxo-1,3,8-triazaspiro[4.5]dec-3-yl)propoxy]cyclohexyl}propane (Compound No. 118)
40.0 g of 7,7,9,9-tetramethyl-1,3,8-triazaspiro[4.5]decane-2,4-dione, 17.5 g of 2,2-bis[4-(2,3-epoxypropoxy)cyclohexyl]propane and 2.0 g of potassium hydroxide were reacted in 300 ml of methanol, following substantially the same procedure as was described in Example 1. The desired Compound No. 118 was obtained in the form of a white powder, having an Rf value of 0.56 on thin-layer chromatography on silica gel using a 8:1:1:1 by volume mixture of ethyl acetate, benzene, ethanol and triethylamine as developing solvent.

reactant | 7,7,9,9-tetramethyl-1,3,8-triazaspiro[4.5]decane-2,4-dione | 40.0 g | CC1(CC2(C(NC(N2)=O)=O)CC(N1)(C)C)C | C11H19N3O2
reactant | 2,2-bis[4-(2,3-epoxypropoxy)cyclohexyl]propane | 17.5 g | O1C(COC2CCC(CC2)C(C)(C)C2CCC(CC2)OCC2CO2)C1 | C21H36O4
reactant | potassium hydroxide | 2.0 g | [OH-].[K+]
solvent | methanol | 300 ml | CO | CH4O
product | 2,2-Bis{4-[2-hydroxy-3-(7,7,9,9-tetramethyl-2,4-dioxo-1,3,8-triazaspiro[4.5]dec-3-yl)propoxy]cyclohexyl}propane | OC(COC1CCC(CC1)C(C)(C)C1CCC(CC1)OCC(CN1C(NC2(C1=O)CC(NC(C2)(C)C)(C)C)=O)O)CN2C(NC1(C2=O)CC(NC(C1)(C)C)(C)C)=O | C43H74N6O8
